US04963553
4-[2-[3-Cyano-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidin-4(5H)-yl]-2-oxoethyl]-1-piperazinecarboxylic acid, phenylmethyl ester
A mixture of 6.3 g of 4-(chloroacetyl)-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile, 4.2 g of 1-piperazinecarboxylic acid, phenylmethyl ester and 4.1 g of triethylamine in 250 ml of tetrahydrofuran was stirred under reflux for 18 hours, then cooled and filtered. The filtrate was evaporated, the residue taken up in chloroform, washed with water, dried, filtered and concentrated. The residual oil was triturated three times with ether:hexane (1:1), then with hexane. The solid was collected, washed with hexane and dried. The solid was heated to solution in 25 ml of ethyl acetate, filtered, diluted with 25 ml of hexane and cooled, giving 4.6 g of the desired product, mp 113°-115° C.

reactant | 4-(chloroacetyl)-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 6.3 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C16H10ClF3N4O
reactant | 1-piperazinecarboxylic acid, phenylmethyl ester | 4.2 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-[2-[3-Cyano-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidin-4(5H)-yl]-2-oxoethyl]-1-piperazinecarboxylic acid, phenylmethyl ester | 4.6 g | C(#N)C=1C=NN2C1N(CC=C2C2=CC(=CC=C2)C(F)(F)F)C(CN2CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C28H25F3N6O3
